US07915424B2
5-(3,4-Difluorophenylethynyl)-pyridine-3-carbaldehyde oxime hydrochloride
Prepare in a similar manner as described in EXAMPLE 6 using 5-(3,4-difluorophenylethynyl)-pyridine-3-carbaldehyde (0.28 g, 1.15 mmol), (prepared essentially as described in EXAMPLE 101), hydroxylamine hydrochloride (0.64 g, 9.21 mmol) and potassium carbonate (0.80 g, 5.76 mmol) to give the title compound (0.120 g, 35%).

reactant | 5-(3,4-difluorophenylethynyl)-pyridine-3-carbaldehyde | 1.15 mmol, 0.28 g | FC=1C=C(C=CC1F)C#CC=1C=C(C=NC1)C=O | C14H7F2NO
reactant | hydroxylamine hydrochloride | 9.21 mmol, 0.64 g | Cl.NO
reactant | potassium carbonate | 5.76 mmol, 0.80 g | C([O-])([O-])=O.[K+].[K+]
product | 5-(3,4-Difluorophenylethynyl)-pyridine-3-carbaldehyde oxime hydrochloride | 0.120 g, 35% | Cl.FC=1C=C(C=CC1F)C#CC=1C=C(C=NC1)C=NO | InChI=1S/C14H8F2N2O.ClH/c15-13-4-3-10(6-14(13)16)1-2-11-5-12(9-18-19)8-17-7-11;/h3-9,19H;1H
